US04229449
To a well stirred mixture of 2-[α-(2-methoxy-phenoxy)-2-chloro-benzyl]-morpholine (2 g) in glacial acetic acid (5.2 ml), acetone (12 ml) and water (8 ml), NaBH4 (6.024 g) was added over 1 hour maintaining the temperature near 0° C. Then more acetone (12 ml) and NaBH4 (3 g) were added; the temperature was allowed to rise to room temperature and after 30 hours the reaction mixture was poured into a solution of NaHCO3 in water, then extracted with diethyl ether. The ethereal extracts were washed with water, dried over Na2SO4 and evaporated to dryness to give 4-isopropyl-2-[α-(2-methoxy-phenoxy)-2-chloro-benzyl]-morpholine (1.85 g; yield 82.3%) .HCl m.p. 200°-240° C.

reactant | 2-[α-(2-methoxy-phenoxy)-2-chloro-benzyl]-morpholine | 2 g | COC1=C(OC(C2=C(C=CC=C2)Cl)C2CNCCO2)C=CC=C1 | C18H20ClNO3
reactant | NaBH4 | 6.024 g | [BH4-].[Na+]
reactant | NaBH4 | 3 g | [BH4-].[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | acetic acid | 5.2 ml | C(C)(=O)O | C2H4O2
solvent | acetone | 12 ml | CC(=O)C | C3H6O
solvent | water | 8 ml | O | H2O
solvent | acetone | 12 ml | CC(=O)C | C3H6O
product | 4-isopropyl-2-[α-(2-methoxy-phenoxy)-2-chloro-benzyl]-morpholine | 1.85 g, yield 82.3% | C(C)(C)N1CC(OCC1)C(C1=C(C=CC=C1)Cl)OC1=C(C=CC=C1)OC | C21H26ClNO3
